US04612317
A mixture of DL-tryptophan methyl ester hydrochloride (33 g), n-butyraldehyde (21.0 g) and methanol (450 ml) is refluxed for 48 hours. After the reaction, the reaction mixture is concentrated to about 1/3 in volume and allowed to stand. The precipitated crystals are collected by filtration and recrystallized from methanol to give methyl (1RS, 3RS)-cis-1-n-propyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride (15.4 g, 38.4%) as colorless prisms, m.p. 205°-207° C.

reactant | DL-tryptophan methyl ester hydrochloride | 33 g | Cl.COC(C(N)CC1=CNC2=CC=CC=C12)=O
reactant | n-butyraldehyde | 21.0 g | C(CCC)=O | C4H8O
solvent | methanol | 450 ml | CO | CH4O
product | methyl (1RS, 3RS)-cis-1-n-propyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride | 15.4 g, 38.4% | Cl.C(CC)[C@@H]1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)OC | InChI=1S/C16H20N2O2.ClH/c1-3-6-13-15-11(9-14(17-13)16(19)20-2)10-7-4-5-8-12(10)18-15;/h4-5,7-8,13-14,17-18H,3,6,9H2,1-2H3;1H/t13-,14-;/m0./s1
